US08067445B2
Step 1: 5-Bromo-2-iodo-benzaldehyde
To 5-bromo-2-iodobenzonitrile (7.4 g, 24.2 mmol) in THF (40 mL) at −78° C. was added diisobutylaluminium hydride (1 M in hexanes; 24.2 mL, 24.2 mmol) over 5 minutes, and the reaction was allowed to warm to room temperature and monitored by analytical tlc. After stirring overnight at room temperature, starting material was still present, so the mixture was cooled to 0° C. and additional diisobutylaluminium hydride (1 M in hexanes; 10.0 mL, 10.0 mmol) was added. After stirring for 2 hours at room temperature, no starting material was seen by analytical tlc, so the mixture was carefully quenched with freshly saturated aqueous Na2SO4 and diluted with EtOAc. The mixture was stirred vigorously for 1 hour and then filtered through Celite. The filtrate was concentrated, and the resulting oil solidified on standing. The solid was stirred vigorously in CH2Cl2 and 1N aqueous HCl, and the aqueous layer was separated and extracted with CH2Cl2. The combined organic layers were dried over MgSO4, filtered, and concentrated to give the title compound.

reactant | 5-bromo-2-iodobenzonitrile | 24.2 mmol, 7.4 g | BrC=1C=CC(=C(C#N)C1)I | C7H3BrIN
reactant | diisobutylaluminium hydride | 24.2 mmol, 1 M, 24.2 mL | [H-].C(C(C)C)[Al+]CC(C)C
reactant | diisobutylaluminium hydride | 10.0 mmol, 1 M, 10.0 mL | [H-].C(C(C)C)[Al+]CC(C)C
reactant | THF | 40 mL | C1CCOC1 | C4H8O
product | 5-Bromo-2-iodo-benzaldehyde | BrC=1C=CC(=C(C=O)C1)I | C7H4BrIO
